US07642264B2
4-{4-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidin-2-yl}-benzenesulfonamide
The title compound was prepared from 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine (example E.83) (0.150 g, 0.381 mmol) and commercially available (4-aminosulfonylphenyl)boronic acid [CAS-No. 613660-87-0] (0.130 g, 0.457 mmol) according to the general procedure VI. Obtained as a white solid (0.045 g, 25%). MS (ISP) 471.1 [(M+H)+].

reactant | 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine | 0.381 mmol, 0.150 g | ClC1=NC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H11ClF3N3
reactant | (4-aminosulfonylphenyl)boronic acid | 0.457 mmol, 0.130 g | NS(=O)(=O)C1=CC=C(C=C1)B(O)O | C6H8BNO4S
product | 4-{4-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidin-2-yl}-benzenesulfonamide | CC1=CC(=CC(=N1)C1=NC(=NC=C1)C1=CC=C(C=C1)S(=O)(=O)N)C1=CC=C(C=C1)C(F)(F)F | C23H17F3N4O2S
